US07405210B2
Preparation 102: [1-(S)-(4-Fluorobenzyl)-2-(3-(S)-hydroxypyrrolidin-1-yl)-2-oxoethyl]carbamic acid tert-butyl ester
To a stirred solution of (S)-N-Boc-4-fluorophenylalanine (5.08 g, 17.9 mmol) and (S)-3-hydroxypyrrolidine (1.05 mL, 19.7 mmol) in anhydrous DMF (200 mL), was added DIPEA (6.87 mL, 39.5 mmol) and HOBt.H2O (3.02 g, 19.7 mmol). The reaction mixture was stirred for 10 min at room temperature then EDCI (4.13 g, 21.5 mmol) was added and the resulting mixture stirred for 20 h at rt. The volatiles were removed in vacuo then the residue partitioned between water (200 mL) and ethyl acetate (200 mL). The layers were separated and the aqueous layer extracted with ethyl acetate (3×50 mL). The combined organics were washed with aqueous sodium hydroxide solution (2M, 3×50 mL), brine (100 mL), dried (MgSO4), filtered and concentrated in vacuo. The oily residue was purified via flash chromatography (SiO2, methanol/dichloromethane, 1:19, v/v) to give the title compound as a colourless oil which became a white solid on standing. m/z (ES+)=353 [M+H]+; RT=3.17 min.

reactant | (S)-N-Boc-4-fluorophenylalanine | 17.9 mmol, 5.08 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)F)C(=O)O | C14H18FNO4
reactant | (S)-3-hydroxypyrrolidine | 19.7 mmol, 1.05 mL | O[C@@H]1CNCC1 | C4H9NO
reactant | DIPEA | 39.5 mmol, 6.87 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 19.7 mmol, 3.02 g | O | H2O
reactant | EDCI | 21.5 mmol, 4.13 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | [1-(S)-(4-Fluorobenzyl)-2-(3-(S)-hydroxypyrrolidin-1-yl)-2-oxoethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(=O)N1C[C@H](CC1)O)CC1=CC=C(C=C1)F)=O | C18H25FN2O4
